* Copyright 2026 Danial Noori Zadeh. See collection LICENSE and NOTICE.
* Fixed IHP binding; external bias ports and native physical taps.
.subckt ia_003_fan_chopper_pf vinp vinn voutp voutn vref clk_chin clk_chin_not clk_chfb clk_chfb_not clk_chout clk_chout_not clk_chpf clk_chpf_not vdd vss vb1 vb2 vb3 vb4 inch_p inch_n fbch_p fbch_n g2_p g2_n vsum_p vsum_n pfch_p pfch_n
RT0 vdd well_0 ntap1 A=4e-12 P=8e-6
MM1 tail vb4 vdd well_0 sg13_lv_pmos w=20u l=1u m=1
RT1 vdd well_1 ntap1 A=4e-12 P=8e-6
MM10 out1_n vb3 casc_src_n well_1 sg13_lv_pmos w=10u l=0.3u m=1
RT2 vdd well_2 ntap1 A=4e-12 P=8e-6
MM11 out1_p vb3 casc_src_p well_2 sg13_lv_pmos w=10u l=0.3u m=1
RT3 vss sub ptap1 A=4e-12 P=8e-6
MM12 out1_p vb2 fold_p sub sg13_lv_nmos w=5u l=0.3u m=1
RT4 vss sub ptap1 A=4e-12 P=8e-6
MM13 out1_n vb2 fold_n sub sg13_lv_nmos w=5u l=0.3u m=1
RT5 vss sub ptap1 A=4e-12 P=8e-6
MM14 voutp g2_p vss sub sg13_lv_nmos w=6u l=0.5u m=1
RT6 vss sub ptap1 A=4e-12 P=8e-6
MM15 voutn g2_n vss sub sg13_lv_nmos w=6u l=0.5u m=1
RT7 vss sub ptap1 A=4e-12 P=8e-6
MM16 out1_n clk_chout g2_n sub sg13_lv_nmos w=2u l=0.13u m=1
RT8 vdd well_8 ntap1 A=4e-12 P=8e-6
MM17 g2_n clk_chout_not out1_n well_8 sg13_lv_pmos w=2u l=0.13u m=1
RT9 vss sub ptap1 A=4e-12 P=8e-6
MM18 out1_p clk_chout g2_p sub sg13_lv_nmos w=2u l=0.13u m=1
RT10 vdd well_10 ntap1 A=4e-12 P=8e-6
MM19 g2_p clk_chout_not out1_p well_10 sg13_lv_pmos w=2u l=0.13u m=1
RT11 vdd well_11 ntap1 A=4e-12 P=8e-6
MM2 fold_p vsum_p tail well_11 sg13_lv_pmos w=20u l=0.5u m=1
RT12 vss sub ptap1 A=4e-12 P=8e-6
MM20 fbch_p clk_chfb voutp sub sg13_lv_nmos w=2u l=0.13u m=1
RT13 vdd well_13 ntap1 A=4e-12 P=8e-6
MM21 voutp clk_chfb_not fbch_p well_13 sg13_lv_pmos w=2u l=0.13u m=1
RT14 vss sub ptap1 A=4e-12 P=8e-6
MM22 fbch_n clk_chfb voutn sub sg13_lv_nmos w=2u l=0.13u m=1
RT15 vdd well_15 ntap1 A=4e-12 P=8e-6
MM23 voutn clk_chfb_not fbch_n well_15 sg13_lv_pmos w=2u l=0.13u m=1
RT16 vss sub ptap1 A=4e-12 P=8e-6
MM24 vinn clk_chin inch_n sub sg13_lv_nmos w=2u l=0.13u m=1
RT17 vdd well_17 ntap1 A=4e-12 P=8e-6
MM25 inch_n clk_chin_not vinn well_17 sg13_lv_pmos w=2u l=0.13u m=1
RT18 vss sub ptap1 A=4e-12 P=8e-6
MM26 vinp clk_chin inch_p sub sg13_lv_nmos w=2u l=0.13u m=1
RT19 vdd well_19 ntap1 A=4e-12 P=8e-6
MM27 inch_p clk_chin_not vinp well_19 sg13_lv_pmos w=2u l=0.13u m=1
RT20 vss sub ptap1 A=4e-12 P=8e-6
MM28 pfch_p clk_chpf voutp sub sg13_lv_nmos w=2u l=0.13u m=1
RT21 vdd well_21 ntap1 A=4e-12 P=8e-6
MM29 voutp clk_chpf_not pfch_p well_21 sg13_lv_pmos w=2u l=0.13u m=1
RT22 vdd well_22 ntap1 A=4e-12 P=8e-6
MM3 fold_n vsum_n tail well_22 sg13_lv_pmos w=20u l=0.5u m=1
RT23 vss sub ptap1 A=4e-12 P=8e-6
MM30 pfch_n clk_chpf voutn sub sg13_lv_nmos w=2u l=0.13u m=1
RT24 vdd well_24 ntap1 A=4e-12 P=8e-6
MM31 voutn clk_chpf_not pfch_n well_24 sg13_lv_pmos w=2u l=0.13u m=1
RT25 vss sub ptap1 A=4e-12 P=8e-6
MM32 out1_n clk_chout_not g2_p sub sg13_lv_nmos w=2u l=0.13u m=1
RT26 vdd well_26 ntap1 A=4e-12 P=8e-6
MM33 g2_p clk_chout out1_n well_26 sg13_lv_pmos w=2u l=0.13u m=1
RT27 vss sub ptap1 A=4e-12 P=8e-6
MM34 out1_p clk_chout_not g2_n sub sg13_lv_nmos w=2u l=0.13u m=1
RT28 vdd well_28 ntap1 A=4e-12 P=8e-6
MM35 g2_n clk_chout out1_p well_28 sg13_lv_pmos w=2u l=0.13u m=1
RT29 vss sub ptap1 A=4e-12 P=8e-6
MM36 vinn clk_chin_not inch_p sub sg13_lv_nmos w=2u l=0.13u m=1
RT30 vdd well_30 ntap1 A=4e-12 P=8e-6
MM37 inch_p clk_chin vinn well_30 sg13_lv_pmos w=2u l=0.13u m=1
RT31 vss sub ptap1 A=4e-12 P=8e-6
MM38 vinp clk_chin_not inch_n sub sg13_lv_nmos w=2u l=0.13u m=1
RT32 vdd well_32 ntap1 A=4e-12 P=8e-6
MM39 inch_n clk_chin vinp well_32 sg13_lv_pmos w=2u l=0.13u m=1
RT33 vss sub ptap1 A=4e-12 P=8e-6
MM4 fold_p vb1 vss sub sg13_lv_nmos w=4.7u l=1u m=1
RT34 vss sub ptap1 A=4e-12 P=8e-6
MM40 fbch_p clk_chfb_not voutn sub sg13_lv_nmos w=2u l=0.13u m=1
RT35 vdd well_35 ntap1 A=4e-12 P=8e-6
MM41 voutn clk_chfb fbch_p well_35 sg13_lv_pmos w=2u l=0.13u m=1
RT36 vss sub ptap1 A=4e-12 P=8e-6
MM42 fbch_n clk_chfb_not voutp sub sg13_lv_nmos w=2u l=0.13u m=1
RT37 vdd well_37 ntap1 A=4e-12 P=8e-6
MM43 voutp clk_chfb fbch_n well_37 sg13_lv_pmos w=2u l=0.13u m=1
RT38 vss sub ptap1 A=4e-12 P=8e-6
MM44 pfch_p clk_chpf_not voutn sub sg13_lv_nmos w=2u l=0.13u m=1
RT39 vdd well_39 ntap1 A=4e-12 P=8e-6
MM45 voutn clk_chpf pfch_p well_39 sg13_lv_pmos w=2u l=0.13u m=1
RT40 vss sub ptap1 A=4e-12 P=8e-6
MM46 pfch_n clk_chpf_not voutp sub sg13_lv_nmos w=2u l=0.13u m=1
RT41 vdd well_41 ntap1 A=4e-12 P=8e-6
MM47 voutp clk_chpf pfch_n well_41 sg13_lv_pmos w=2u l=0.13u m=1
RT42 vss sub ptap1 A=4e-12 P=8e-6
MM5 fold_n vb1 vss sub sg13_lv_nmos w=4.7u l=1u m=1
RT43 vdd well_43 ntap1 A=4e-12 P=8e-6
MM6 casc_src_n vb4 vdd well_43 sg13_lv_pmos w=10u l=1u m=1
RT44 vdd well_44 ntap1 A=4e-12 P=8e-6
MM7 casc_src_p vb4 vdd well_44 sg13_lv_pmos w=10u l=1u m=1
RT45 vdd well_45 ntap1 A=4e-12 P=8e-6
MM8 voutp vb4 vdd well_45 sg13_lv_pmos w=6.2u l=1u m=1
RT46 vdd well_46 ntap1 A=4e-12 P=8e-6
MM9 voutn vb4 vdd well_46 sg13_lv_pmos w=6.2u l=1u m=1
RTSUB vss sub ptap1 A=4e-12 P=8e-6
CFB1_0 fbch_p vsum_n cap_cmim w=23.04u l=23.04u m=1
CFB2_0 fbch_n vsum_p cap_cmim w=23.04u l=23.04u m=1
CIN1_0 vsum_n inch_n cap_cmim w=51.59u l=51.59u m=1
CIN1_1 vsum_n inch_n cap_cmim w=51.59u l=51.59u m=1
CIN1_2 vsum_n inch_n cap_cmim w=51.59u l=51.59u m=1
CIN1_3 vsum_n inch_n cap_cmim w=51.59u l=51.59u m=1
CIN2_0 vsum_p inch_p cap_cmim w=51.59u l=51.59u m=1
CIN2_1 vsum_p inch_p cap_cmim w=51.59u l=51.59u m=1
CIN2_2 vsum_p inch_p cap_cmim w=51.59u l=51.59u m=1
CIN2_3 vsum_p inch_p cap_cmim w=51.59u l=51.59u m=1
CM1_0 g2_p voutp cap_cmim w=25.77u l=25.77u m=1
CM2_0 g2_n voutn cap_cmim w=25.77u l=25.77u m=1
CPF1_0 pfch_p inch_p cap_cmim w=23.04u l=23.04u m=1
CPF2_0 pfch_n inch_n cap_cmim w=23.04u l=23.04u m=1
RRB1_0 vsum_n RB1_s1 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_1 RB1_s1 RB1_s2 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_2 RB1_s2 RB1_s3 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_3 RB1_s3 RB1_s4 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_4 RB1_s4 RB1_s5 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_5 RB1_s5 RB1_s6 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_6 RB1_s6 RB1_s7 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_7 RB1_s7 RB1_s8 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_8 RB1_s8 RB1_s9 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_9 RB1_s9 RB1_s10 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_10 RB1_s10 RB1_s11 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_11 RB1_s11 RB1_s12 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_12 RB1_s12 RB1_s13 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_13 RB1_s13 RB1_s14 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_14 RB1_s14 RB1_s15 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_15 RB1_s15 RB1_s16 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_16 RB1_s16 RB1_s17 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_17 RB1_s17 RB1_s18 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_18 RB1_s18 RB1_s19 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_19 RB1_s19 RB1_s20 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_20 RB1_s20 RB1_s21 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_21 RB1_s21 RB1_s22 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_22 RB1_s22 RB1_s23 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_23 RB1_s23 RB1_s24 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_24 RB1_s24 RB1_s25 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_25 RB1_s25 RB1_s26 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_26 RB1_s26 RB1_s27 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_27 RB1_s27 RB1_s28 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_28 RB1_s28 RB1_s29 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_29 RB1_s29 RB1_s30 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_30 RB1_s30 RB1_s31 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_31 RB1_s31 RB1_s32 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_32 RB1_s32 RB1_s33 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_33 RB1_s33 RB1_s34 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_34 RB1_s34 RB1_s35 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_35 RB1_s35 RB1_s36 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_36 RB1_s36 RB1_s37 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_37 RB1_s37 RB1_s38 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_38 RB1_s38 RB1_s39 sub rhigh w=.5u l=84.45u m=1 b=0
RRB1_39 RB1_s39 vref sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_0 vsum_p RB2_s1 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_1 RB2_s1 RB2_s2 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_2 RB2_s2 RB2_s3 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_3 RB2_s3 RB2_s4 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_4 RB2_s4 RB2_s5 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_5 RB2_s5 RB2_s6 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_6 RB2_s6 RB2_s7 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_7 RB2_s7 RB2_s8 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_8 RB2_s8 RB2_s9 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_9 RB2_s9 RB2_s10 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_10 RB2_s10 RB2_s11 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_11 RB2_s11 RB2_s12 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_12 RB2_s12 RB2_s13 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_13 RB2_s13 RB2_s14 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_14 RB2_s14 RB2_s15 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_15 RB2_s15 RB2_s16 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_16 RB2_s16 RB2_s17 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_17 RB2_s17 RB2_s18 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_18 RB2_s18 RB2_s19 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_19 RB2_s19 RB2_s20 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_20 RB2_s20 RB2_s21 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_21 RB2_s21 RB2_s22 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_22 RB2_s22 RB2_s23 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_23 RB2_s23 RB2_s24 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_24 RB2_s24 RB2_s25 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_25 RB2_s25 RB2_s26 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_26 RB2_s26 RB2_s27 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_27 RB2_s27 RB2_s28 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_28 RB2_s28 RB2_s29 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_29 RB2_s29 RB2_s30 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_30 RB2_s30 RB2_s31 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_31 RB2_s31 RB2_s32 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_32 RB2_s32 RB2_s33 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_33 RB2_s33 RB2_s34 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_34 RB2_s34 RB2_s35 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_35 RB2_s35 RB2_s36 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_36 RB2_s36 RB2_s37 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_37 RB2_s37 RB2_s38 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_38 RB2_s38 RB2_s39 sub rhigh w=.5u l=84.45u m=1 b=0
RRB2_39 RB2_s39 vref sub rhigh w=.5u l=84.45u m=1 b=0
.ends ia_003_fan_chopper_pf
